US07112595B2
Title compound synthesis: Pd(PPh3)4 (10 mg, 0.009 mmol) was added to absolution of hexamethylditin (169 mg, 0.52 mmol) and 5-bromo-2-(2-pyridyl)-furan (90 mg, 88% purity, 0.36 mmol) in toulene (2 mL) under argon. The resulting solution was stirred at 80° C. for 19 h. After cooling to room temperature, a second portion of Pd(PPh3)4 (10 mg, 0.009 mmol) and 1-(3-bromo-5-fluoro-phenyl)-1H-imidazole (86 mg, 0.36 mmol) were added and the resulting solution was stirred at 110° C. for 36 h. After cooling to room temperature, the solvent was removed in vacuo. Chromatography (5 g silica gel SPE tube, 0–3% methanol in 1:1 chloroform:ethyl acetate) afforded 72.3 mg (66%) of 2-(2-pyridyl)-5-(5-fluoro-3-(1-imidazolyl)phenyl)-furan. 1H-NMR (CDCl3), δ (ppm): 8.63 (d, 1H), 7.93 (s, 1H), 7.78 (m, 2H), 7.57 (s, 1H), 7.45 (m, 1H), 7.35 (s, 1H), 7.23 (m, 3H), 7.03 (m, 1H), 6.91 (d, 1H).

reactant | hexamethylditin | 0.52 mmol, 169 mg | C[Sn](C)C.C[Sn](C)C
reactant | 5-bromo-2-(2-pyridyl)-furan | 0.36 mmol, 90 mg | BrC1=CC=C(O1)C1=NC=CC=C1 | C9H6BrNO
reactant | 1-(3-bromo-5-fluoro-phenyl)-1H-imidazole | 0.36 mmol, 86 mg | BrC=1C=C(C=C(C1)F)N1C=NC=C1 | C9H6BrFN2
catalyst | Pd(PPh3)4 | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.009 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-pyridyl)-5-(5-fluoro-3-(1-imidazolyl)phenyl)-furan | 72.3 mg, 66% | N1=C(C=CC=C1)C=1OC(=CC1)C1=CC(=CC(=C1)F)N1C=NC=C1 | C18H12FN3O
